US05936026
This example illustrates a graft copolymer according to the present invention comprising 94% backbone made from styrene/methyl methacrylate/n-butyl acrylate/methacrylamide/2-hydroxyethyl acrylate (in the weight ratio of 27/14.5/46/4/2.5) and 6% macromonomer (from Example 1) made from methyl methacrylate/methacrylic acid (in the weight ratio of 3.6/2.4). This graft copolymer copolymerized after dispersion in water using ammonia to form a high molecular weight binder with both hydroxy (2-hydroxyethyl acrylate) and amide (methacrylamide) functionalities. The following components were used in the preparation:

reactant | styrene methyl methacrylate n-butyl acrylate methacrylamide 2-hydroxyethyl acrylate | C=CC1=CC=CC=C1.C(C(=C)C)(=O)OC.C(C=C)(=O)OCCCC.C(C(=C)C)(=O)N.C(C=C)(=O)OCCO
reactant | methyl methacrylate methacrylic acid | C(C(=C)C)(=O)OC.C(C(=C)C)(=O)O
reactant | ammonia | N | H3N
solvent | water | O | H2O
product | hydroxy (2-hydroxyethyl acrylate) | OCCC(C(=O)OO)=C | C5H8O4
